US06150524
4,5α-Epoxy-6α-((5-(ethyloxycarbonyl)-2-pyridyl)-oxy)-3-methoxymethoxy-17-methyl-morphinan-7-ene
NaH (0.72 g, 30 mmol) is stirred with absolute DMF (12 ml) at RT and then 4,5α-epoxy-3-methoxymethoxy-17-methyl-morphinan-7-en-6α-ol (1.9764 g, 6 mmol) in DMF (12 ml) is added. After the development of gas has ceased, a solution of ethyl 2-chloro-nicotinate (5.568 g, 30 mmol) in absolute DMF (8 ml) is added at RT. After 1 hour at RT this reaction mixture is poured onto H2O (100 ml) and extracted 3 times with CH2Cl2 (60 ml). The combined organic phases are dried with Na2SO4, concentrated by rotary evaporation and the residue is purified by flash chromatography (90 g silica gel, CH2Cl2MeOH=9/1). Yield: 2.53 g (5.29 mmol, 88%)

reactant | NaH | 30 mmol, 0.72 g | [H-].[Na+]
reactant | 4,5α-epoxy-3-methoxymethoxy-17-methyl-morphinan-7-en-6α-ol | 6 mmol, 1.9764 g | O1C2=C(C=CC=3C[C@@H]4[C@@H]5C=C[C@@H]([C@H]1[C@@]5(C23)CCN4C)O)OCOC | C19H23NO4
reactant | ethyl 2-chloro-nicotinate | 30 mmol, 5.568 g | ClC1=C(C(=O)OCC)C=CC=N1 | C8H8ClNO2
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
product | 4,5α-Epoxy-6α-((5-(ethyloxycarbonyl)-2-pyridyl)-oxy)-3-methoxymethoxy-17-methyl-morphinan-7-ene | O1C2=C(C=CC=3C[C@@H]4[C@@H]5C=C[C@@H]([C@H]1[C@@]5(C23)CCN4C)OC4=NC=C(C=C4)C(=O)OCC)OCOC | C27H30N2O6
